US08314109B2
To a solution of 2.5 g of 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine in 50 mL of 1,2-dimethoxyethane are added 2.14 mL of ethyl 3-bromo-2-oxopropionate. The reaction mixture is stirred for 3.5 hours at 25° C., 50 mL of ethanol are then added and the resulting mixture is refluxed for 16 hours. The reaction mixture is cooled and concentrated to dryness. The residue is suspended in 100 mL of water at 0° C. and treated, while stirring vigorously, with solid sodium carbonate until a pH of 8-9 is obtained. The precipitate is filtered off by suction and washed with 100 mL of water at 0° C. and then dissolved in 150 mL of methanol. The solution is dried over magnesium sulfate, filtered, concentrated and dried under vacuum to give 2.36 g of 2-ethoxycarbonylimidazo[1,2-a]pyridine-6-boronic acid in the form of a cream-coloured solid.

reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 2.5 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
reactant | ethyl 3-bromo-2-oxopropionate | 2.14 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | 2-ethoxycarbonylimidazo[1,2-a]pyridine-6-boronic acid | 2.36 g | C(C)OC(=O)C=1N=C2N(C=C(C=C2)B(O)O)C1 | C10H11BN2O4
